US07132436B2
N-[4-(2-chloro-5-nitrophenyl)-1,3-thiazol-2-yl][1,1′-biphenyl]-4-sulfonamide
The title compound was prepared from 4-(2-chloro-5-nitrophenyl)-1,3-thiazol-2-amine hydrobromide and 4-phenylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (11.9 mg) with purity >90%. MS (pos) m/z 472.1.

reactant | 4-(2-chloro-5-nitrophenyl)-1,3-thiazol-2-amine hydrobromide | Br.ClC1=C(C=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)N
reactant | 4-phenylbenzenesulfonyl chloride | C1(=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO2S
product | N-[4-(2-chloro-5-nitrophenyl)-1,3-thiazol-2-yl][1,1′-biphenyl]-4-sulfonamide | ClC1=C(C=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C21H14ClN3O4S2
